US08084448B2
A. 2-(4-Methoxybenzyloxy)-5-methylbenzoic Acid Methyl Ester
A mixture of 2-hydroxy-5-methylbenzoic acid methyl ester (4.98 g, 30 mmol), 4-methoxybenzyl chloride (4.69 g, 30 mmol) and K2CO3 (4.55 g, 33 mmol) in DMF (50 mL) is stirred at 60° C. for 48 h. The mixture is diluted with EtOAc and washed with 1N HCl and brine then the organic phase is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue is purified by column chromatography using a gradient of 0-100% EtOAc/hexane as eluent to give the title compound as a colorless oil.

reactant | 2-hydroxy-5-methylbenzoic acid methyl ester | 30 mmol, 4.98 g | COC(C1=C(C=CC(=C1)C)O)=O | C9H10O3
reactant | 4-methoxybenzyl chloride | 30 mmol, 4.69 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | K2CO3 | 33 mmol, 4.55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Methoxybenzyloxy)-5-methylbenzoic Acid Methyl Ester | COC(C1=C(C=CC(=C1)C)OCC1=CC=C(C=C1)OC)=O | C17H18O4
